US04206120
Sodium (Z)-2-methyl-3-benzylidene-7-oxo-4-oxa-1-azabicyclo-[3.2.0]-heptane-2-carboxylate
Ethyl (Z)-2-methyl-3-benzylidene-7-oxo-4-oxa-1-azabicyclo[3.2.0]-heptane-2-carboxylate (0.05 g, 0.174 mmole) was dissolved in 2 ml THF/2 ml H2O, ice cooled and treated with 1 N NaOH (0.174 ml). After 2 hours the solution was ether washed, brought to pH 7 with dil. HCl and freeze dried to yield the title compound (82%) as a off-white solid. νmax (KBr): 1772, 1673, 1600, 1390, 1208, 1034 cm-1. δ(D2O-ref HOD=4.45δ); 1.64 (s, 3H, 2-CH3), 2.88 (d, J=17 Hz, 1H, C6-H trans to C5-H), 3.30 (dd, J=17 and 2.5 Hz, 1H, C6-H cis to C5-H), 5.40 (s, 1H, =CH-), 5.58 (d, J=2.5 Hz, 1H, C5-H), 7.0-7.6 (m, 5H, Ph). λmax (EtOH): 270 nm (ε=18380).

reactant | Ethyl (Z)-2-methyl-3-benzylidene-7-oxo-4-oxa-1-azabicyclo[3.2.0]-heptane-2-carboxylate | 0.174 mmole, 0.05 g | CC/1(N2C(CC2O\C1=C/C1=CC=CC=C1)=O)C(=O)OCC | C16H17NO4
reactant | NaOH | 1 N, 0.174 ml | [OH-].[Na+]
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | Sodium (Z)-2-methyl-3-benzylidene-7-oxo-4-oxa-1-azabicyclo-[3.2.0]-heptane-2-carboxylate | 82% | CC/1(N2C(CC2O\C1=C/C1=CC=CC=C1)=O)C(=O)[O-].[Na+] | InChI=1S/C14H13NO4.Na/c1-14(13(17)18)10(7-9-5-3-2-4-6-9)19-12-8-11(16)15(12)14;/h2-7,12H,8H2,1H3,(H,17,18);/q;+1/p-1/b10-7-;
